US04933355
2-piperidinothiazole-4-carbaldehyde
The reaction described in Preparation 44 was repeated, but using 2.4 g of 2-piperidinothiazol-4-ylmethanol, 5.8 g of sulfur trioxide pyridine complex, 3.7 g of triethylamine and 30 ml of dimethyl sulfoxide, giving the title compound as pale orange prisms.

reactant | 2-piperidinothiazol-4-ylmethanol | 2.4 g | N1(CCCCC1)C=1SC=C(N1)CO | C9H14N2OS
reactant | triethylamine | 3.7 g | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 2-piperidinothiazole-4-carbaldehyde | N1(CCCCC1)C=1SC=C(N1)C=O | C9H12N2OS
